US05919960
The Synthesis of N-(27-hydroxyheptacosanoyl)-phytospingosine
Diisopropylcarbodiimide (1 ml, 6.4 mmoles) was added to a stirred suspension of 27-hydroxy-heptacosanoic acid (2.13 g, 5 mmoles), dry tetrahydrofuran (50 ml), dried 1-hydroxy-benzotriazole (1.6 g, 13.5 mmoles) and phytosphingosine (1.5 g, 4.7 mmoles) at 40° C. under nitrogen. After stirring overnight the mixture was cooled to room temperature and the precipitate was filtered off and washed with 20 ml of tetrahydrofuran.

reactant | Diisopropylcarbodiimide | 6.4 mmoles, 1 ml | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | 27-hydroxy-heptacosanoic acid | 5 mmoles, 2.13 g | OCCCCCCCCCCCCCCCCCCCCCCCCCCC(=O)O | C27H54O3
reactant | 1-hydroxy-benzotriazole | 13.5 mmoles, 1.6 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | phytosphingosine | 4.7 mmoles, 1.5 g | OC[C@H](N)[C@H](O)[C@H](O)CCCCCCCCCCCCCC | C18H39NO3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-(27-hydroxyheptacosanoyl)-phytospingosine | OCCCCCCCCCCCCCCCCCCCCCCCCCCC(=O)N[C@@H](CO)[C@H](O)[C@H](O)CCCCCCCCCCCCCC | C45H91NO5
